US05219548
Synthesis of Hydroxymethyl-N,N-Diethyl Tamoxifen (Compound III)
Clomiphene (3.8 g, 9.3 mmol) was dissolved in tetrahydrofuran (50 ml), cooled to -40° C. and then treated with t-butyl lithium (1M in pentane, 20 mmol). After 10 minutes, trimethylene oxide (6 ml, 93 mmol) was added, the mixture stirred for 16 hours at room temperature, and then poured into water. The product was extracted with ether and chromatographed on a silica gel column using 1:1:0.1 ether/petroleum ether/triethylamine as eluant to yield purified trans-product (1 g, 25%), m.p. 93°-95° C. and cis- product (N,N-diethylhydroxymethyl tamoxifen) (1.0 g, 25%), m.p. 85°-87° C. Anal. (C29H35NO2)C,H,N. Calc., C:81.08, H:8.21, N:3.26; Found, C:80.56, H:7.94, N:3.32. Values for aliphatic protons are presented in Table 3.

reactant | Clomiphene | 9.3 mmol, 3.8 g | CCN(CC)CCOC=1C=CC(=CC1)/C(=C(\C=2C=CC=CC2)/Cl)/C=3C=CC=CC3 | C26H28ClNO
reactant | t-butyl lithium | 20 mmol, 1M | C(C)(C)(C)[Li]
reactant | trimethylene oxide | 93 mmol, 6 ml | C1CCO1 | C3H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Hydroxymethyl-N,N-Diethyl Tamoxifen | CCN(CC)CCOC1=CC=C(C=C1)/C(=C(/CCCO)\C2=CC=CC=C2)/C3=CC=CC=C3 | C29H35NO2
